US05753673
To a solution of 1.0 g of l-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarbonyl chloride in 30 ml of toluene was added 0.55 g of p-nitrophenol. The mixture was stirred overnight at room temperature. After solvent was distilled off, the residue was extracted with ether. The solvent was again distilled off. The resulting solid was washed with a small quantity of cold ether to give 0.56 g of 4-nitrophenyl 1-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarboxylate.

reactant | l-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarbonyl chloride | 1.0 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)Cl)=O | C13H12ClNO2
reactant | p-nitrophenol | 0.55 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 4-nitrophenyl 1-isopropyl-2-oxo-1,2-dihydro-3-quinolinecarboxylate | 0.56 g | C(C)(C)N1C(C(=CC2=CC=CC=C12)C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H16N2O5
